US05395846
To a mixture of H2SO4 (96%; 150 ml) and HNO3 (70%; 15 ml), cooled to 0° C. is added tricyclo[3.3.1.13,7 ]decan-2-one (10 g; 0.067 mole) and the mixture stirred at room temperature for 5 hrs. The reaction mixture is then poured over ice, basified to pH 8 using 50% NaOH, extracted into ether, dried over MgSO4 and evaporated to dryness. The resultant product is recrystallized from carbon tetrachloride to obtain 5-hydroxytricyclo[3.3.1.13,7 ]decan-2-one [(m.p. 314° C. (dec.)] which is used directly in step B.

reactant | HNO3 | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | tricyclo[3.3.1.13,7 ]decan-2-one | 0.067 mole, 10 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 150 ml | OS(=O)(=O)O | H2O4S
product | 5-hydroxytricyclo[3.3.1.13,7 ]decan-2-one | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
